US06175031B1
362 mg Vinyltrimethoxysilane and 362 mg tris(dimethylsiloxy)-n-propylsilane were placed in a nitrogen-purged glass tube. This was followed by the addition of 27 mg dimethylacetoxysilane and 0.005 mL of a toluene solution (platinum content=0.04 weight %) of a zero-valent platinum complexed with divinylsiloxane. The tube was then sealed with Teflon® tape and a rubber septum and heated for 1 hour in an oil bath at 80° C. After cooling, GC analysis of the product showed the following: the starting materials had been entirely consumed; the vinyltrimethoxysilane:tris(dimethylsiloxy)-n-propylsilane 1:1 adduct, 2:1 adduct, and 3:1 adduct were produced at 1:6:1 as the GC-FID (FID=flame ionization detector) area ratio; and the α-hydrosilylation:β-hydrosilylation ratio in these products was 1:7.1.

reactant | Vinyltrimethoxysilane | 362 mg | C(=C)[Si](OC)(OC)OC | C5H12O3Si
reactant | tris(dimethylsiloxy)-n-propylsilane | 362 mg | C[SiH](O[Si](CCC)(O[SiH](C)C)O[SiH](C)C)C | C9H28O3Si4
product | vinyltrimethoxysilane tris(dimethylsiloxy)-n-propylsilane | C(=C)[Si](OC)(OC)OC.C[SiH](O[Si](CCC)(O[SiH](C)C)O[SiH](C)C)C | InChI=1S/C9H28O3Si4.C5H12O3Si/c1-8-9-16(10-13(2)3,11-14(4)5)12-15(6)7;1-5-9(6-2,7-3)8-4/h13-15H,8-9H2,1-7H3;5H,1H2,2-4H3
